* Copyright © Linear Technology Corp. 2011.  All rights reserved.
*
.subckt LT1962-1.5 1 2 3 4 5 6 7 8
Q1 N007 N005 8 0 PN
Q2 N005 N003 4 0 NA
Q3 N003 N004 N011 0 NP temp=27
C1 N003 N004 27p Rser=225K
Q4 N004 N004 3 0 NP 10 temp=27
R2 3 4 12K
R3 N011 4 10K
C2 1 N004 25p
Q5 1 N009 N010 0 FB temp=27
R6 N010 3 107K
A1 5 4 4 4 4 4 N002 4 SCHMITT Vt=.8 Vh=1m tau=10u
G2 8 N004 N002 4 1.2µ
G1 8 N003 N002 4 1.2µ
R1 8 N005 600K
R8 N007 1 .2
A2 N006 0 N003 N003 N003 N003 4 N003 VARISTOR
D3 0 N006 F
G3 0 N006 1 N007 20m
Q7 N004 N005 N007 0 P 1m
D1 8 1 X
C5 2 4 1p
C6 1 4 10p
C7 8 4 10p
G4 0 N006 8 0 table(1.3 1m 2.4 3m 10 4m)
C4 8 N003 5p Rser=.6G
C8 3 4 1p
R9 2 N009 57K
R10 N009 4 244K
G5 N006 0 N002 4 table(0 4m 1 0)
C9 8 N004 300p Rser=.37G Rpar=6G
D2 5 4 S
.model P PNP(BF=100)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model NA NPN(BF=1Meg Cje=2p Cjc=2p Re=20)
.model PN PNP(BF=30 Cje=300p Cjc=300p Tf=10n)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model X D(Ron=10 Vfwd=30 epsilon=.5)
.model S D(Ron=3Meg Roff=100Meg Vfwd=.9 epsilon=.2 Ilimit=1u)
.ends LT1962-1.5
*
.subckt LT1962-1.8 1 2 3 4 5 6 7 8
Q1 N007 N005 8 0 PN
Q2 N005 N003 4 0 NA
Q3 N003 N004 N011 0 NP temp=27
C1 N003 N004 27p Rser=225K
Q4 N004 N004 3 0 NP 10 temp=27
R2 3 4 12K
R3 N011 4 10K
C2 1 N004 25p
Q5 1 N009 N010 0 FB temp=27
R6 N010 3 107K
A1 5 4 4 4 4 4 N002 4 SCHMITT Vt=.8 Vh=1m tau=10u
G2 8 N004 N002 4 1.2µ
G1 8 N003 N002 4 1.2µ
R1 8 N005 600K
R8 N007 1 .2
A2 N006 0 N003 N003 N003 N003 4 N003 VARISTOR
D3 0 N006 F
G3 0 N006 1 N007 20m
Q7 N004 N005 N007 0 P 1m
D1 8 1 X
C5 2 4 1p
C6 1 4 10p
C7 8 4 10p
G4 0 N006 8 0 table(1.3 1m 2.4 3m 10 4m)
C4 8 N003 5p Rser=.6G
C8 3 4 1p
R9 2 N009 117K
R10 N009 4 244K
G5 N006 0 N002 4 table(0 4m 1 0)
C9 8 N004 300p Rser=.37G Rpar=6G
D2 5 4 S
.model P PNP(BF=100)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model NA NPN(BF=1Meg Cje=2p Cjc=2p Re=20)
.model PN PNP(BF=30 Cje=300p Cjc=300p Tf=10n)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model X D(Ron=10 Vfwd=30 epsilon=.5)
.model S D(Ron=3Meg Roff=100Meg Vfwd=.9 epsilon=.2 Ilimit=1u)
.ends LT1962-1.8
*
.subckt LT1962-2.5 1 2 3 4 5 6 7 8
Q1 N007 N005 8 0 PN
Q2 N005 N003 4 0 NA
Q3 N003 N004 N011 0 NP temp=27
C1 N003 N004 27p Rser=225K
Q4 N004 N004 3 0 NP 10 temp=27
R2 3 4 12K
R3 N011 4 10K
C2 1 N004 25p
Q5 1 N009 N010 0 FB temp=27
R6 N010 3 107K
A1 5 4 4 4 4 4 N002 4 SCHMITT Vt=.8 Vh=1m tau=10u
G2 8 N004 N002 4 1.2µ
G1 8 N003 N002 4 1.2µ
R1 8 N005 600K
R8 N007 1 .2
A2 N006 0 N003 N003 N003 N003 4 N003 VARISTOR
D3 0 N006 F
G3 0 N006 1 N007 20m
Q7 N004 N005 N007 0 P 1m
D1 8 1 X
C5 2 4 1p
C6 1 4 10p
C7 8 4 10p
G4 0 N006 8 0 table(1.3 1m 2.4 3m 10 4m)
C4 8 N003 5p Rser=.6G
C8 3 4 1p
R9 2 N009 256K
R10 N009 4 244K
G5 N006 0 N002 4 table(0 4m 1 0)
C9 8 N004 300p Rser=.37G Rpar=6G
D2 5 4 S
.model P PNP(BF=100)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model NA NPN(BF=1Meg Cje=2p Cjc=2p Re=20)
.model PN PNP(BF=30 Cje=300p Cjc=300p Tf=10n)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model X D(Ron=10 Vfwd=30 epsilon=.5)
.model S D(Ron=3Meg Roff=100Meg Vfwd=.9 epsilon=.2 Ilimit=1u)
.ends LT1962-2.5
*
.subckt LT1962-3.3 1 2 3 4 5 6 7 8
Q1 N007 N005 8 0 PN
Q2 N005 N003 4 0 NA
Q3 N003 N004 N011 0 NP temp=27
C1 N003 N004 27p Rser=225K
Q4 N004 N004 3 0 NP 10 temp=27
R2 3 4 12K
R3 N011 4 10K
C2 1 N004 25p
Q5 1 N009 N010 0 FB temp=27
R6 N010 3 107K
A1 5 4 4 4 4 4 N002 4 SCHMITT Vt=.8 Vh=1m tau=10u
G2 8 N004 N002 4 1.2µ
G1 8 N003 N002 4 1.2µ
R1 8 N005 600K
R8 N007 1 .2
A2 N006 0 N003 N003 N003 N003 4 N003 VARISTOR
D3 0 N006 F
G3 0 N006 1 N007 20m
Q7 N004 N005 N007 0 P 1m
D1 8 1 X
C5 2 4 1p
C6 1 4 10p
C7 8 4 10p
G4 0 N006 8 0 table(1.3 1m 2.4 3m 10 4m)
C4 8 N003 5p Rser=.6G
C8 3 4 1p
R9 2 N009 415K
R10 N009 4 244K
G5 N006 0 N002 4 table(0 4m 1 0)
C9 8 N004 300p Rser=.37G Rpar=6G
D2 5 4 S
.model P PNP(BF=100)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model NA NPN(BF=1Meg Cje=2p Cjc=2p Re=20)
.model PN PNP(BF=30 Cje=300p Cjc=300p Tf=10n)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model X D(Ron=10 Vfwd=30 epsilon=.5)
.model S D(Ron=3Meg Roff=100Meg Vfwd=.9 epsilon=.2 Ilimit=1u)
.ends LT1962-3.3
*
.subckt LT1962-3 1 2 3 4 5 6 7 8
Q1 N007 N005 8 0 PN
Q2 N005 N003 4 0 NA
Q3 N003 N004 N011 0 NP temp=27
C1 N003 N004 27p Rser=225K
Q4 N004 N004 3 0 NP 10 temp=27
R2 3 4 12K
R3 N011 4 10K
C2 1 N004 25p
Q5 1 N009 N010 0 FB temp=27
R6 N010 3 107K
A1 5 4 4 4 4 4 N002 4 SCHMITT Vt=.8 Vh=1m tau=10u
G2 8 N004 N002 4 1.2µ
G1 8 N003 N002 4 1.2µ
R1 8 N005 600K
R8 N007 1 .2
A2 N006 0 N003 N003 N003 N003 4 N003 VARISTOR
D3 0 N006 F
G3 0 N006 1 N007 20m
Q7 N004 N005 N007 0 P 1m
D1 8 1 X
C5 2 4 1p
C6 1 4 10p
C7 8 4 10p
G4 0 N006 8 0 table(1.3 1m 2.4 3m 10 4m)
C4 8 N003 5p Rser=.6G
C8 3 4 1p
R9 2 N009 356K
R10 N009 4 244K
G5 N006 0 N002 4 table(0 4m 1 0)
C9 8 N004 300p Rser=.37G Rpar=6G
D2 5 4 S
.model P PNP(BF=100)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model NA NPN(BF=1Meg Cje=2p Cjc=2p Re=20)
.model PN PNP(BF=30 Cje=300p Cjc=300p Tf=10n)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model X D(Ron=10 Vfwd=30 epsilon=.5)
.model S D(Ron=3Meg Roff=100Meg Vfwd=.9 epsilon=.2 Ilimit=1u)
.ends LT1962-3
*
.subckt LT1962-5 1 2 3 4 5 6 7 8
Q1 N007 N005 8 0 PN
Q2 N005 N003 4 0 NA
Q3 N003 N004 N011 0 NP temp=27
C1 N003 N004 27p Rser=225K
Q4 N004 N004 3 0 NP 10 temp=27
R2 3 4 12K
R3 N011 4 10K
C2 1 N004 25p
Q5 1 N009 N010 0 FB temp=27
R6 N010 3 107K
A1 5 4 4 4 4 4 N002 4 SCHMITT Vt=.8 Vh=1m tau=10u
G2 8 N004 N002 4 1.2µ
G1 8 N003 N002 4 1.2µ
R1 8 N005 600K
R8 N007 1 .2
A2 N006 0 N003 N003 N003 N003 4 N003 VARISTOR
D3 0 N006 F
G3 0 N006 1 N007 20m
Q7 N004 N005 N007 0 P 1m
D1 8 1 X
C5 2 4 1p
C6 1 4 10p
C7 8 4 10p
G4 0 N006 8 0 table(1.3 1m 2.4 3m 10 4m)
C4 8 N003 5p Rser=.6G
C8 3 4 1p
R9 2 N009 755K
R10 N009 4 244K
G5 N006 0 N002 4 table(0 4m 1 0)
C9 8 N004 300p Rser=.37G Rpar=6G
D2 5 4 S
.model P PNP(BF=100)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model NA NPN(BF=1Meg Cje=2p Cjc=2p Re=20)
.model PN PNP(BF=30 Cje=300p Cjc=300p Tf=10n)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model X D(Ron=10 Vfwd=30 epsilon=.5)
.model S D(Ron=3Meg Roff=100Meg Vfwd=.9 epsilon=.2 Ilimit=1u)
.ends LT1962-5
*
.subckt LT1962 1 2 3 4 5 6 7 8
Q1 N007 N005 8 0 PN
Q2 N005 N003 4 0 NA
Q3 N003 N004 N010 0 NP temp=27
C1 N003 N004 27p Rser=225K
Q4 N004 N004 3 0 NP 10 temp=27
R2 3 4 12K
R3 N010 4 10K
C2 1 N004 25p
Q5 1 2 N009 0 FB temp=27
R6 N009 3 107K
A1 5 4 4 4 4 4 N002 4 SCHMITT Vt=.8 Vh=1m tau=10u
G2 8 N004 N002 4 1.2µ
G1 8 N003 N002 4 1.2µ
R1 8 N005 600K
R8 N007 1 .2
A2 N006 0 N003 N003 N003 N003 4 N003 VARISTOR
D3 0 N006 F
G3 0 N006 1 N007 20m
Q7 N004 N005 N007 0 P 1m
D1 8 1 X
C5 2 4 1p
C6 1 4 10p
C7 8 4 10p
G4 0 N006 8 0 table(1.3 1m 2.4 3m 10 4m)
C4 8 N003 5p Rser=.6G
C8 3 4 1p
G5 N006 0 N002 4 table(0 4m 1 0)
C9 8 N004 300p Rser=.37G Rpar=6G
D2 5 4 S
.model P PNP(BF=100)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model NA NPN(BF=1Meg Cje=2p Cjc=2p Re=20)
.model PN PNP(BF=30 Cje=300p Cjc=300p Tf=10n)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model X D(Ron=10 Vfwd=30 epsilon=.5)
.model S D(Ron=3Meg Roff=100Meg Vfwd=.9 epsilon=.2 Ilimit=1u)
.ends LT1962
