* Copyright © Linear Technology Corp. 2004-2009.  All rights reserved.
*
.subckt LT1963-1.5 1 2 3 4 5
Q1 N008 N006 2 0 PN
Q2 N006 N004 3 0 NA
Q3 N004 N005 N012 0 NP temp=27
C1 N004 N005 11p Rser=10K
Q4 N005 N005 N013 0 NP 10 temp=27
R2 N013 3 200
R3 N012 3 175
C2 4 N005 65p
Q5 4 N010 N011 0 FB temp=27
R6 N011 N013 1.361K
R5 1 3 10Meg
A1 1 3 3 3 3 3 N002 3 SCHMITT Vt=.8 Vh=1m trise=1m
G2 2 N005 N002 3 50µ
G1 2 N004 N002 3 50µ
R1 2 N006 50K
R8 N008 4 .1
A2 N007 0 N004 N004 N004 N004 3 N004 VARISTOR
D3 0 N007 F
G3 0 N007 4 N008 10m
G4 0 N007 2 4 table(9 4.5m 18 1.5m)
Q7 N005 N006 N008 0 P 1m
C4 2 N004 300p Rser=20Meg
D1 2 4 X
C5 5 3 1p
C6 4 3 10p
C7 2 3 10p
G5 N007 0 N002 3 table(0 4.5m 1 0)
C8 2 N005 4n Rser=12Meg Rpar=70Meg
D2 1 3 3uA
R10 N010 3 3666
R11 5 N010 882.5
.model PN PNP(BF=25 Cje=200p Cjc=200p Tf=20n)
.model NA NPN(BF=170K Cje=5p Cjc=5p Re=5)
.model NP NPN(Cje=5p Cjc=5p BF=150)
.model FB NPN(Cje=10p Cjc=10p BF=100)
.model F D(Ron=1m Roff=1K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=29.5 epsilon=1)
.model 3uA D(Ron=250K Ilimit=3u)
.ends LT1963-1.5
*
.subckt LT1963-1.8 1 2 3 4 5
Q1 N008 N006 2 0 PN
Q2 N006 N004 3 0 NA
Q3 N004 N005 N012 0 NP temp=27
C1 N004 N005 11p Rser=10K
Q4 N005 N005 N013 0 NP 10 temp=27
R2 N013 3 200
R3 N012 3 175
C2 4 N005 65p
Q5 4 N010 N011 0 FB temp=27
R6 N011 N013 1.361K
R5 1 3 10Meg
A1 1 3 3 3 3 3 N002 3 SCHMITT Vt=.8 Vh=1m trise=1m
G2 2 N005 N002 3 50µ
G1 2 N004 N002 3 50µ
R1 2 N006 50K
R8 N008 4 .1
A2 N007 0 N004 N004 N004 N004 3 N004 VARISTOR
D3 0 N007 F
G3 0 N007 4 N008 10m
G4 0 N007 2 4 table(9 4.5m 18 1.5m)
Q7 N005 N006 N008 0 P 1m
C4 2 N004 300p Rser=20Meg
D1 2 4 X
C5 5 3 1p
C6 4 3 10p
C7 2 3 10p
G5 N007 0 N002 3 table(0 4.5m 1 0)
C8 2 N005 4n Rser=12Meg Rpar=70Meg
D2 1 3 3uA
R10 N010 3 3666
R11 5 N010 1.785K
.model PN PNP(BF=25 Cje=200p Cjc=200p Tf=20n)
.model NA NPN(BF=170K Cje=5p Cjc=5p Re=5)
.model NP NPN(Cje=5p Cjc=5p BF=150)
.model FB NPN(Cje=10p Cjc=10p BF=100)
.model F D(Ron=1m Roff=1K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=29.5 epsilon=1)
.model 3uA D(Ron=250K Ilimit=3u)
.ends LT1963-1.8
*
.subckt LT1963-2.5 1 2 3 4 5
Q1 N008 N006 2 0 PN
Q2 N006 N004 3 0 NA
Q3 N004 N005 N012 0 NP temp=27
C1 N004 N005 11p Rser=10K
Q4 N005 N005 N013 0 NP 10 temp=27
R2 N013 3 200
R3 N012 3 175
C2 4 N005 65p
Q5 4 N010 N011 0 FB temp=27
R6 N011 N013 1.361K
R5 1 3 10Meg
A1 1 3 3 3 3 3 N002 3 SCHMITT Vt=.8 Vh=1m trise=1m
G2 2 N005 N002 3 50µ
G1 2 N004 N002 3 50µ
R1 2 N006 50K
R8 N008 4 .1
A2 N007 0 N004 N004 N004 N004 3 N004 VARISTOR
D3 0 N007 F
G3 0 N007 4 N008 10m
G4 0 N007 2 4 table(9 4.5m 18 1.5m)
Q7 N005 N006 N008 0 P 1m
C4 2 N004 300p Rser=20Meg
D1 2 4 X
C5 5 3 1p
C6 4 3 10p
C7 2 3 10p
G5 N007 0 N002 3 table(0 4.5m 1 0)
C8 2 N005 4n Rser=12Meg Rpar=70Meg
D2 1 3 3uA
R10 N010 3 3666
R11 5 N010 3.9K
.model PN PNP(BF=25 Cje=200p Cjc=200p Tf=20n)
.model NA NPN(BF=170K Cje=5p Cjc=5p Re=5)
.model NP NPN(Cje=5p Cjc=5p BF=150)
.model FB NPN(Cje=10p Cjc=10p BF=100)
.model F D(Ron=1m Roff=1K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=29.5 epsilon=1)
.model 3uA D(Ron=250K Ilimit=3u)
.ends LT1963-2.5
*
.subckt LT1963-3.3 1 2 3 4 5
Q1 N008 N006 2 0 PN
Q2 N006 N004 3 0 NA
Q3 N004 N005 N012 0 NP temp=27
C1 N004 N005 11p Rser=10K
Q4 N005 N005 N013 0 NP 10 temp=27
R2 N013 3 200
R3 N012 3 175
C2 4 N005 65p
Q5 4 N010 N011 0 FB temp=27
R6 N011 N013 1.361K
R5 1 3 10Meg
A1 1 3 3 3 3 3 N002 3 SCHMITT Vt=.8 Vh=1m trise=1m
G2 2 N005 N002 3 50µ
G1 2 N004 N002 3 50µ
R1 2 N006 50K
R8 N008 4 .1
A2 N007 0 N004 N004 N004 N004 3 N004 VARISTOR
D3 0 N007 F
G3 0 N007 4 N008 10m
G4 0 N007 2 4 table(9 4.5m 18 1.5m)
Q7 N005 N006 N008 0 P 1m
C4 2 N004 300p Rser=20Meg
D1 2 4 X
C5 5 3 1p
C6 4 3 10p
C7 2 3 10p
G5 N007 0 N002 3 table(0 4.5m 1 0)
C8 2 N005 4n Rser=12Meg Rpar=70Meg
D2 1 3 3uA
R10 N010 3 3666
R11 5 N010 6.31K
.model PN PNP(BF=25 Cje=200p Cjc=200p Tf=20n)
.model NA NPN(BF=170K Cje=5p Cjc=5p Re=5)
.model NP NPN(Cje=5p Cjc=5p BF=150)
.model FB NPN(Cje=10p Cjc=10p BF=100)
.model F D(Ron=1m Roff=1K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=29.5 epsilon=1)
.model 3uA D(Ron=250K Ilimit=3u)
.ends LT1963-3.3
*
.subckt LT1963 1 2 3 4 5
Q1 N008 N006 2 0 PN
Q2 N006 N004 3 0 NA
Q3 N004 N005 N011 0 NP temp=27
C1 N004 N005 11p Rser=10K
Q4 N005 N005 N012 0 NP 10 temp=27
R2 N012 3 200
R3 N011 3 175
C2 4 N005 65p
Q5 4 5 N010 0 FB temp=27
R6 N010 N012 1.361K
R5 1 3 10Meg
I1 1 3 3µ load
A1 1 3 3 3 3 3 N002 3 SCHMITT Vt=.8 Vh=1m trise=1m
G2 2 N005 N002 3 50µ
G1 2 N004 N002 3 50µ
R1 2 N006 50K
R8 N008 4 .1
A2 N007 0 N004 N004 N004 N004 3 N004 VARISTOR
D3 0 N007 F
G3 0 N007 4 N008 10m
G4 0 N007 2 4 table(9 4.5m 18 1.5m)
Q7 N005 N006 N008 0 P 1m
C4 2 N004 300p Rser=20Meg
D1 2 4 X
C5 5 3 1p
C6 4 3 10p
C7 2 3 10p
G5 N007 0 N002 3 table(0 4.5m 1 0)
C8 2 N005 4n Rser=12Meg Rpar=70Meg
.model PN PNP(BF=25 Cje=200p Cjc=200p Tf=20n)
.model NA NPN(BF=170K Cje=5p Cjc=5p Re=5)
.model NP NPN(Cje=5p Cjc=5p BF=150)
.model FB NPN(Cje=10p Cjc=10p BF=100)
.model F D(Ron=1m Roff=1K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=29.5 epsilon=1)
.ends LT1963
