* Copyright © Linear Technology Corp. 2004.  All rights reserved.
*
.subckt LT3020-1.2 1 2 3 4 5 6 7
Q1 N002 N006 7 0 PE temp=27
R15 N002 1 1m
A2 4 N007 4 N010 4 4 N004 4 AND Tau=1u
A1 5 4 4 4 4 4 N010 4 SCHMITT Vt=.8 Vh=1m trise=1u
A3 7 4 4 4 4 4 N007 4 SCHMITT Vt=.92 Vh=1m Trise=1u
A4 4 N011 N012 4 4 4 N006 4 OTA Vhigh=11 G=2 Iout=1.2m Ref=-.2
G1 4 N011 N008 4 10µ
C2 N011 4 10p Rser=5K Rpar=100K
C3 N008 4 1p Rpar=1G
C4 N006 4 65n Rser=50
D1 5 4 BIA
C5 7 4 1p Rpar=1G
A5 N005 4 N012 N012 N012 N012 4 N012 VARISTOR
D2 4 N005 F
G2 4 N005 1 N002 20
G3 4 N005 7 4 table(1.7 6.3m 10 7.2m)
R1 N012 N004 10Meg
G4 7 4 N004 4 120µ
D3 7 4 BIA
S1 4 1 N008 4 OV
A6 4 7 N006 N006 N006 N006 4 N006 VARISTOR table(.5 0 10.5 10)
R2 1 N008 100K
R3 N008 4 20K
.model PE PNP(Rb=100 BF=155 Cjc=1n Cje=1n VAF=3)
.model BIA D(Ron=100 Roff=1G Ilimit=3u)
.model F D(Ron=1m Roff=10K Vrev=30)
.model OV SW(Ron=1 Roff=1G Vt=.21 Vh=-5m level=2 ilimit=16m oneway)
.ends LT3020-1.2
*
.subckt LT3020-1.5 1 2 3 4 5 6 7
Q1 N002 N006 7 0 PE temp=27
R15 N002 1 1m
A2 4 N007 4 N010 4 4 N004 4 AND Tau=1u
A1 5 4 4 4 4 4 N010 4 SCHMITT Vt=.8 Vh=1m trise=1u
A3 7 4 4 4 4 4 N007 4 SCHMITT Vt=.92 Vh=1m Trise=1u
A4 4 N011 N012 4 4 4 N006 4 OTA Vhigh=11 G=2 Iout=1.2m Ref=-.2
G1 4 N011 N008 4 10µ
C2 N011 4 10p Rser=5K Rpar=100K
C3 N008 4 1p Rpar=1G
C4 N006 4 65n Rser=50
D1 5 4 BIA
C5 7 4 1p Rpar=1G
A5 N005 4 N012 N012 N012 N012 4 N012 VARISTOR
D2 4 N005 F
G2 4 N005 1 N002 20
G3 4 N005 7 4 table(1.7 6.3m 10 7.2m)
R1 N012 N004 10Meg
G4 7 4 N004 4 120µ
D3 7 4 BIA
S1 4 1 N008 4 OV
A6 4 7 N006 N006 N006 N006 4 N006 VARISTOR table(.5 0 10.5 10)
R2 1 N008 130K
R3 N008 4 20K
.model PE PNP(Rb=100 BF=155 Cjc=1n Cje=1n VAF=3)
.model BIA D(Ron=100 Roff=1G Ilimit=3u)
.model F D(Ron=1m Roff=10K Vrev=30)
.model OV SW(Ron=1 Roff=1G Vt=.21 Vh=-5m level=2 ilimit=16m oneway)
.ends LT3020-1.5
*
.subckt LT3020-1.8 1 2 3 4 5 6 7
Q1 N002 N006 7 0 PE temp=27
R15 N002 1 1m
A2 4 N007 4 N010 4 4 N004 4 AND Tau=1u
A1 5 4 4 4 4 4 N010 4 SCHMITT Vt=.8 Vh=1m trise=1u
A3 7 4 4 4 4 4 N007 4 SCHMITT Vt=.92 Vh=1m Trise=1u
A4 4 N011 N012 4 4 4 N006 4 OTA Vhigh=11 G=2 Iout=1.2m Ref=-.2
G1 4 N011 N008 4 10µ
C2 N011 4 10p Rser=5K Rpar=100K
C3 N008 4 1p Rpar=1G
C4 N006 4 65n Rser=50
D1 5 4 BIA
C5 7 4 1p Rpar=1G
A5 N005 4 N012 N012 N012 N012 4 N012 VARISTOR
D2 4 N005 F
G2 4 N005 1 N002 20
G3 4 N005 7 4 table(1.7 6.3m 10 7.2m)
R1 N012 N004 10Meg
G4 7 4 N004 4 120µ
D3 7 4 BIA
S1 4 1 N008 4 OV
A6 4 7 N006 N006 N006 N006 4 N006 VARISTOR table(.5 0 10.5 10)
R2 1 N008 160K
R3 N008 4 20K
.model PE PNP(Rb=100 BF=155 Cjc=1n Cje=1n VAF=3)
.model BIA D(Ron=100 Roff=1G Ilimit=3u)
.model F D(Ron=1m Roff=10K Vrev=30)
.model OV SW(Ron=1 Roff=1G Vt=.21 Vh=-5m level=2 ilimit=16m oneway)
.ends LT3020-1.8
*
.subckt LT3020 1 2 3 4 5 6 7
Q1 N002 N006 7 0 PE temp=27
R15 N002 1 1m
A2 4 N007 4 N009 4 4 N004 4 AND Tau=1u
A1 5 4 4 4 4 4 N009 4 SCHMITT Vt=.8 Vh=1m trise=1u
A3 7 4 4 4 4 4 N007 4 SCHMITT Vt=.92 Vh=1m Trise=1u
A4 4 N010 N012 4 4 4 N006 4 OTA Vhigh=11 G=2 Iout=1.2m Ref=-.2
G1 4 N010 3 4 10µ
C2 N010 4 10p Rser=5K Rpar=100K
C3 3 4 1p Rpar=1G
C4 N006 4 65n Rser=50
D1 5 4 BIA
C5 7 4 1p Rpar=1G
A5 N005 4 N012 N012 N012 N012 4 N012 VARISTOR
D2 4 N005 F
G2 4 N005 1 N002 20
G3 4 N005 7 4 table(1.7 6.3m 10 7.2m)
R1 N012 N004 10Meg
G4 7 4 N004 4 120µ
D3 7 4 BIA
S1 4 1 3 4 OV
A6 4 7 N006 N006 N006 N006 4 N006 VARISTOR table(.5 0 10.5 10)
.model PE PNP(Rb=100 BF=155 Cjc=1n Cje=1n VAF=3)
.model BIA D(Ron=100 Roff=1G Ilimit=3u)
.model F D(Ron=1m Roff=10K Vrev=30)
.model OV SW(Ron=1 Roff=1G Vt=.21 Vh=-5m level=2 ilimit=16m oneway)
.ends LT3020
